US05925656
2-[N-Methyl-N-(5-methyl-2-phenyl-4-oxazolyl) methylamino]ethanol
The title compound was prepared from 4-chloromethyl-5-methyl-2-phenyloxazole (10 g) and 2-(methylamino)ethanol (36 ml) by an analogous procedure to that described in preparation 1.

reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | 10 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | 2-(methylamino)ethanol | 36 ml | CNCCO | C3H9NO
product | 2-[N-Methyl-N-(5-methyl-2-phenyl-4-oxazolyl) methylamino]ethanol | CN(CC=1N=C(OC1C)C1=CC=CC=C1)CCO | C14H18N2O2
